US07790709B2
Preparation of (E)-3-(6-Amino-5-morpholin-4-ylmethyl-pyridin-3-yl)-N-(2-ethoxy-3-methoxy-benzyl)-N-methyl-acrylamide hydrochloride
According to the procedure of Example 1, except substituting (2-ethoxy-3-methoxy-benzyl)methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-(6-amino-5-morpholin-4-ylmethyl-pyridin-3-yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.27 g, 70%) was prepared as pale yellow powder: 1H NMR (300 MHz, DMSO-d6) δ 8.83-8.65 (m, 1H), 8.40 (s, 1H), 7.52-7.45 (m, 1H), 7.29-7.24 (m, 1H), 7.04-6.96 (m, 2H), 6.65-6.64 (m, 1H), 4.80-4.64 (m, 2H), 4.35 (br s, 2H), 4.02-3.79 (m, 10H), 3.39-2.83 (m, 8H), 1.31-1.25 (m, 3H); MS (ESI) m/e 441 (M+H)+.

reactant | (2-ethoxy-3-methoxy-benzyl)methylamine | C(C)OC1=C(CCN)C=CC=C1OC | C11H17NO2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-(6-amino-5-morpholin-4-ylmethyl-pyridin-3-yl)acrylic acid hydrochloride | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)O)CN1CCOCC1
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-3-(6-Amino-5-morpholin-4-ylmethyl-pyridin-3-yl)-N-(2-ethoxy-3-methoxy-benzyl)-N-methyl-acrylamide hydrochloride | 0.27 g, 70% | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)N(C)CC1=C(C(=CC=C1)OC)OCC)CN1CCOCC1 | InChI=1S/C24H32N4O4.ClH/c1-4-32-23-19(6-5-7-21(23)30-3)16-27(2)22(29)9-8-18-14-20(24(25)26-15-18)17-28-10-12-31-13-11-28;/h5-9,14-15H,4,10-13,16-17H2,1-3H3,(H2,25,26);1H/b9-8+;
